US08809335B2
4-ethoxy-3-(6-(3-isobutylpiperazin-1-yl)pyridin-2-yl)-1H-pyrazolo[3,4-d]pyrimidine
4-ethoxy-3-(6-fluoro-2-pyridyl)-1-trityl-pyrazolo[3,4-d]pyrimidine (139 mg, 0.27 mmol), (S)-tert-butyl 2-isobutylpiperazine-1-carboxylate (201.5 mg, 0.83 mmol) and DIPEA (214.9 mg, 289.6 μL, 1.66 mmol) were dissolved in DMSO (3.5 mL) and the reaction mixture was heated at 150° C. for 5 hours under microwave conditions. After this time, the reaction mixture was allowed to cool and DCM and water were added. The organic layer was separated dried (Na2SO4), filtered and concentrated in vacuo. The crude mixture was purified by column chromatography (ISCO Companion™, 40 g column, eluting with MeOH/DCM). The fractions were isolated and concentrated in vacuo. The residue was taken up in DCM (10 mL) and triethylsilane (128.8 mg, 176.9 μL, 1.11 mmol) and TFA (631.9 mg, 427.0 μL, 5.54 mmol) was added. The reaction mixture was stirred at ambient temperature for 18 hours. After this time the reaction mixture was concentrated in vacuo. The residue was purified by reverse phase preparative HPLC [Waters Sunfire C18, 5 mM, 100 Å column, gradient 10%-95% B (solvent A: 0.05% TFA in water; solvent B: CH3CN) over 16 minutes at 25 mL/min] The fractions were isolated and freeze-dried to give the di-TFA salt of the title compound as a solid (1.9 mg, 1% Yield). H1 NMR (400 MHz, DMSO) δ 14.13 (brs, 1H), 8.98-8.60 (m, 2H), 8.58 (s, 1H), 7.83-7.67 (m, 1H), 7.31 (brs, 1H), 4.66-4.48 (m, 3H), 3.80-3.00 (m, 5H), 3.00-2.88 (m, 1H), 1.86-1.72 (m, 1H), 1.54-1.31 (m, 5H), 0.91 (d, J=6.5 Hz, 3H) and 0.85 (d, J=6.5 Hz, 3H) ppm; MS (ES+) 382.0.

reactant | 4-ethoxy-3-(6-fluoro-2-pyridyl)-1-trityl-pyrazolo[3,4-d]pyrimidine | 0.27 mmol, 139 mg | C(C)OC1=C2C(=NC=N1)N(N=C2C2=NC(=CC=C2)F)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C31H24FN5O
reactant | (S)-tert-butyl 2-isobutylpiperazine-1-carboxylate | 0.83 mmol, 201.5 mg | C(C(C)C)[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C13H26N2O2
reactant | DIPEA | 1.66 mmol, 289.6 μL, 214.9 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | triethylsilane | 1.11 mmol, 176.9 μL, 128.8 mg | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 5.54 mmol, 427.0 μL, 631.9 mg | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | 3.5 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-ethoxy-3-(6-(3-isobutylpiperazin-1-yl)pyridin-2-yl)-1H-pyrazolo[3,4-d]pyrimidine | 1.9 mg, 1% Yield | C(C)OC1=C2C(=NC=N1)NN=C2C2=NC(=CC=C2)N2CC(NCC2)CC(C)C | C20H27N7O
